US05045565
N-(4-(2-nitrophenoxy)-3-methoxyphenylmethyl)nonanamide (1.23 g) is dissolved in methanol (50 mL). To this is added 10% palladium on charcoal (100.1 mg). The mixture is placed on a Paar shaker for 60 minutes at room temperature and 42 psi hydrogen. The mixture is filtered through celite, evaporated to dryness on a rotary evaporator, then dried overnight at room temperature and reduced pressure (0.5 mm Hg) to yield N-(4-(2-aminophenoxy)-3-methoxyphenylmethyl)nonanamide (1.11 g, 97%).

reactant | N-(4-(2-nitrophenoxy)-3-methoxyphenylmethyl)nonanamide | 1.23 g | [N+](=O)([O-])C1=C(OC2=C(C=C(C=C2)CNC(CCCCCCCC)=O)OC)C=CC=C1 | C23H30N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on charcoal | 100.1 mg | [Pd] | Pd
product | N-(4-(2-aminophenoxy)-3-methoxyphenylmethyl)nonanamide | 1.11 g, 97% | NC1=C(OC2=C(C=C(C=C2)CNC(CCCCCCCC)=O)OC)C=CC=C1 | C23H32N2O3
